US06887889B2
To a stirred solution of [4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-carbamic acid isobutyl ester (0.058 g, 0.14 mmol) in ClCH2CH2Cl (0.75 mL) at room temperature under Ar was added cyclopropanecarboxaldehyde (0.012 mL, 0.156 mmol, 1.2 eq.) and HOAc (0.075 mL, 1% v/v). The mixture was stirred for 0.5 h then Na(OAc)3BH (0.041 g, 0.2 mmol, 1.5 eq.) was added. The mixture was stirred for 16 h, diluted with EtOAc (10 mL) and washed with saturated aqueous NaHCO3 solution (10 mL) and saturated brine (10 mL). The combined organic layers were dried over Na2SO4, filtered and concentrated by rotary evaporation to give [1-cyclopropylmethyl-4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-carbamic acid isobutyl ester (0.061 g, 95%). MS (ESI): 471.2/472.2 (M+1).

reactant | [4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-carbamic acid isobutyl ester | 0.14 mmol, 0.058 g | C(C(C)C)OC(NCC1(CCNCC1)C1=CC=C(C=C1)I)=O | C17H25IN2O2
reactant | cyclopropanecarboxaldehyde | 0.156 mmol, 0.012 mL, 1.2 eq. | C1(CC1)C=O | C4H6O
reactant | HOAc | CC(=O)O | C2H4O2
reactant | Na(OAc)3BH | 0.2 mmol, 0.041 g, 1.5 eq. | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | ClCH2CH2Cl | 0.75 mL | C(CCl)Cl | C2H4Cl2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | [1-cyclopropylmethyl-4-(4-iodo-phenyl)-piperidin-4-ylmethyl]-carbamic acid isobutyl ester | 0.061 g, 95% | C(C(C)C)OC(NCC1(CCN(CC1)CC1CC1)C1=CC=C(C=C1)I)=O | C21H31IN2O2
